US08729078B2
In a 25 mL round-bottomed flask, 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-morpholino-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (75 mg, 136 μmol, Eq: 1.00) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (2 mg, 4.66 μmol, Eq: 0.0343) were combined with ethanol (1 ml) and water (1.00 ml) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 1 h, then concentrated in vacuo. Mixture was diluted with acetonitrile and water and filtered. The resultant filtrate was lyophilized to give 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-morpholin-4-yl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (70 mg, 90%, [M+H]+ 571).

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-morpholino-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 136 μmol, 75 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)N2CCOCC2)C#N)CO | C31H29FN6O3
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 1.00 ml | O | H2O
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-morpholin-4-yl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 70 mg, 90% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)N2CCOCC2)C(=O)N)CO | C31H31FN6O4
